US07399782B2
Epoxidation of the C-27, C-28 Double Bond of PbTx-2 To Provide PbTx-6. Dimethyldioxirane was generated in a distillation apparatus, connected to a dry ice condenser, according to the procedure described by Adam17 for a small-scale preparation. The receiving flask was charged with PbTx-2 (2.33 mg) in 5.0 mL of acetone and was cooled in an ice/salt bath. The reaction was monitored by HPLC. When all of the PbTx-2 was consumed, the acetone was evaporated in vacuo, and the residue taken up in 1.0 mL of methanol and purified by HPLC to provide 2.25 mg (95%) of PbTx-6. DCI MS (NH3): 911 (M+1), 928 (M+NH4), 893 (M−H2O). 1H and 13C NMR were identical to that reported by Shimizu.

reactant | Dimethyldioxirane | CC1(OO1)C | C3H6O2
reactant | PbTx-2 | 2.33 mg | C[C@@H]1C[C@H]2[C@@H](C[C@]3([C@H](O2)C[C@H]4[C@H](O3)C(=CC(=O)O4)C)C)O[C@@H]5[C@@H]1O[C@H]6C[C@@H]7[C@](C[C@@H]8[C@@](O7)(C/C=C\[C@@H]9[C@@H](O8)C[C@@H]1[C@@H](O9)C[C@@H]2[C@@](O1)([C@H](C[C@H](O2)CC(=C)C=O)O)C)C)(O[C@@]6(CC5)C)C | C50H70O14
solvent | acetone | 5.0 mL | CC(=O)C | C3H6O
product | PbTx-6 | 2.25 mg, 95% | C[C@@H]1CC2C(C[C@]3(C(O2)CC4C(O3)C(=CC(=O)O4)C)C)OC5C1OC6CC7[C@](CC8[C@](O7)(CC9C(O9)C1C(O8)CC2C(O1)CC1[C@@](O2)(C(CC(O1)CC(=C)C=O)O)C)C)(O[C@@]6(CC5)C)C | C50H70O15
